US06008198
NaBH4 (41.5 mg, 1.1 mmol) was added to a solution of CH2Cl2 --MeOH (1/3 v/v) (8 ml) containing 2-formyl-5,10,15,20-tetrakis(o-pivalamidophenyl)porphyrin (0.11 g, 0.11 mmol) under argon stirred for 15 min. After adding water to the solution, the mixture was extracted by CHCl3 and washed with water. After drying (Na2SO4), the organic layer was chromatographed on a silica gel flash column using CHCl3 --MeOH (10/1 v/v) as the eluent. The residue was dried at room temperature in vacuo to give a purple product, (2-hydroxymethyl-5,10,15,20-tetrakis(o-pivalamidophenyl)porphyrin, 0.11 g, 94%).

reactant | NaBH4 | 1.1 mmol, 41.5 mg | [BH4-].[Na+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | MeOH | 8 ml | CO | CH4O
reactant | 2-formyl-5,10,15,20-tetrakis(o-pivalamidophenyl)porphyrin | 0.11 mmol, 0.11 g | C(=O)C1=C2NC(=C1)C(=C1C=CC(=N1)C(=C1C=CC(N1)=C(C=1C=CC(N1)=C2C2=C(C=CC=C2)NC(C(C)(C)C)=O)C2=C(C=CC=C2)NC(C(C)(C)C)=O)C2=C(C=CC=C2)NC(C(C)(C)C)=O)C2=C(C=CC=C2)NC(C(C)(C)C)=O | C65H66N8O5
solvent | water | O | H2O
product | 2-hydroxymethyl-5,10,15,20-tetrakis(o-pivalamidophenyl)porphyrin | OCC1=C2NC(=C1)C(=C1C=CC(=N1)C(=C1C=CC(N1)=C(C=1C=CC(N1)=C2C2=C(C=CC=C2)NC(C(C)(C)C)=O)C2=C(C=CC=C2)NC(C(C)(C)C)=O)C2=C(C=CC=C2)NC(C(C)(C)C)=O)C2=C(C=CC=C2)NC(C(C)(C)C)=O | C65H68N8O5
